US04369312
A solution of benzhydryl 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate (5.00 g) in methylene chloride (100 ml) was cooled to -65° C., and then triethylamine (1.55 ml) and trifluoromethanesulfonic anhydride (1.87 ml) were added to the solution. The mixture was stirred at the same temperature for 30 minutes. The reaction mixture was washed with an aqueous sodium chloride containing 1 N hydrochloric acid and an aqueous sodium chloride in that order, and dried over magnesium sulfate. The solvent was then distilled off. The resultant oil was crystallized from a solvent mixture of ethyl acetate and diethyl ether and collected by filtration to give benzhydryl 7-(N-trifluoromethanesulfonylamino)-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate (4.90 g). Mp. 100°-105° C.

reactant | benzhydryl 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate | 5.00 g | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N6O3S2
reactant | triethylamine | 1.55 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 1.87 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7-(N-trifluoromethanesulfonylamino)-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate | 4.90 g | FC(S(=O)(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)(F)F | C24H21F3N6O5S3
